// Generated for: spectre
// Generated on: May 16 16:48:49 2024
// Design library name: LDO_JSSC2010_Jianping
// Design cell name: test
// Design view name: schematic
simulator lang=spectre
global 0
parameters nf_M0=1 l_M0=1u l_M1=1u nf_M1=1 w_M1_per_finger=1u \
    w_per_finger_M0=1u C1=1p C2=1p CM=1p IB=1u R1=10k
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_JSSC2010_Jianping
// Cell name: test
// View name: schematic
V2 (VIN 0) vsource dc=1 type=dc
V0 (VSS 0) vsource dc=0 type=dc
M1 (net6 net5 VSS VSS) nch_mac l=l_M1 w=w_M1_per_finger*nf_M1 multi=1 \
        nf=nf_M1 sigma=1 sd=200n \
        ad=((nf_M1-int(nf_M1/2)*2)*(1.75e-07+((nf_M1-1)*2e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*((nf_M1/2)*2e-07))*w_M1_per_finger \
        as=((nf_M1-int(nf_M1/2)*2)*(1.75e-07+((nf_M1-1)*2e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*(1.75e-07+1.75e-07+(nf_M1/2-1)*2e-07+0+0))*w_M1_per_finger \
        pd=(nf_M1-int(nf_M1/2)*2)*((1.75e-07+((nf_M1-1)*2e-07)/2+0)*2+(nf_M1+1)*w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(((nf_M1/2)*2e-07)*2+nf_M1*w_M1_per_finger) \
        ps=(nf_M1-int(nf_M1/2)*2)*((1.75e-07+((nf_M1-1)*2e-07)/2+0)*2+(nf_M1+1)*w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*((1.75e-07+1.75e-07+(nf_M1/2-1)*2e-07+0+0)*2+(nf_M1+2)*w_M1_per_finger) \
        nrd=(nf_M1-int(nf_M1/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf_M1-1))/w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(1e-07/nf_M1/w_M1_per_finger) \
        nrs=(nf_M1-int(nf_M1/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf_M1-1))/w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(1e-07*1e-07*1e-07/(1e-07*1e-07*(nf_M1-2)+1e-07*(1e-07+1e-07))/w_M1_per_finger) \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
M0 (net6 net5 VIN VIN) pch_mac l=l_M0 w=w_per_finger_M0*nf_M0 multi=1 \
        nf=nf_M0 sigma=1 sd=200n \
        ad=((nf_M0-int(nf_M0/2)*2)*(1.75e-07+((nf_M0-1)*2e-07)/2+0)+(nf_M0+1-int((nf_M0+1)/2)*2)*((nf_M0/2)*2e-07))*w_per_finger_M0 \
        as=((nf_M0-int(nf_M0/2)*2)*(1.75e-07+((nf_M0-1)*2e-07)/2+0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(1.75e-07+1.75e-07+(nf_M0/2-1)*2e-07+0+0))*w_per_finger_M0 \
        pd=(nf_M0-int(nf_M0/2)*2)*((1.75e-07+((nf_M0-1)*2e-07)/2+0)*2+(nf_M0+1)*w_per_finger_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(((nf_M0/2)*2e-07)*2+nf_M0*w_per_finger_M0) \
        ps=(nf_M0-int(nf_M0/2)*2)*((1.75e-07+((nf_M0-1)*2e-07)/2+0)*2+(nf_M0+1)*w_per_finger_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*((1.75e-07+1.75e-07+(nf_M0/2-1)*2e-07+0+0)*2+(nf_M0+2)*w_per_finger_M0) \
        nrd=(nf_M0-int(nf_M0/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf_M0-1))/w_per_finger_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(1e-07/nf_M0/w_per_finger_M0) \
        nrs=(nf_M0-int(nf_M0/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf_M0-1))/w_per_finger_M0)+(nf_M0+1-int((nf_M0+1)/2)*2)*(1e-07*1e-07*1e-07/(1e-07*1e-07*(nf_M0-2)+1e-07*(1e-07+1e-07))/w_per_finger_M0) \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
